US05576322
2-(4-Carboxypiperidino)-4-(3,4-methylenedioxybenzyl)amino-6-cyanoquinazoline
20 ml of ethanol and 2.0 ml of a 1N aqueous solution of sodium hydroxide were added to 318 mg of 2-(4-ethoxycarbonylpiperidino)-4-(3,4-methylenedioxybenzyl)amino-6-cyanoquinazoline. The obtained mixture was stirred at 50° C. for 30 minutes and neutralized with 1N hydrochloric acid. The crystal thus precipitated was recovered by filtration and purified by silica gel column chromatography (chloroform/methanol) to give 116 mg of the title compound.

reactant | sodium hydroxide | [OH-].[Na+]
reactant | 2-(4-ethoxycarbonylpiperidino)-4-(3,4-methylenedioxybenzyl)amino-6-cyanoquinazoline | 318 mg | C(C)OC(=O)C1CCN(CC1)C1=NC2=CC=C(C=C2C(=N1)NCC1=CC2=C(C=C1)OCO2)C#N | C25H25N5O4
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 2-(4-Carboxypiperidino)-4-(3,4-methylenedioxybenzyl)amino-6-cyanoquinazoline | 116 mg | C(=O)(O)C1CCN(CC1)C1=NC2=CC=C(C=C2C(=N1)NCC1=CC2=C(C=C1)OCO2)C#N | C23H21N5O4
